US09290451B2
a) (S)-Methyl 2-(tert-butoxycarbonylamino)-3-cyclopropylpropanoate
To a mixture of (S)-2-(tert-butoxycarbonylamino)-3-cyclopropylpropanoic acid (CAN 89483-06-7, 6.792 g, 30 mmol) and K2CO3 (8.173 g, 59 mmol) in DMF (100 mL) was added MeI (10.37 g, 73 mmol). The reaction mixture was stirred overnight at room temperature. After filtration, the filtrate was concentrated to give the title compound as yellow oil (6.44 g, 89%); MS (EI): m/e=266.2 [M+Na]+.

reactant | (S)-2-(tert-butoxycarbonylamino)-3-cyclopropylpropanoic acid | 30 mmol, 6.792 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1CC1 | C11H19NO4
reactant | K2CO3 | 59 mmol, 8.173 g | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 73 mmol, 10.37 g | CI | CH3I
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | (S)-Methyl 2-(tert-butoxycarbonylamino)-3-cyclopropylpropanoate | 6.44 g, 89% | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CC1CC1 | C12H21NO4
